* Extracted active-load strength sweep, structural models only.
.global VSUBS
.model LATCH_NMOS nmos level=1 kp=1000u vto=0.55 lambda=0.02
.model INPUT_NMOS nmos level=1 kp=1000u vto=0.55 lambda=0.02
.model FEEDBACK_NMOS nmos level=1 kp=500u vto=0.55 lambda=0.02
.model TAIL_NMOS nmos level=1 kp=200u vto=0.55 lambda=0.02
.model LOAD_PMOS pmos level=1 kp=100u vto=-0.55 lambda=0.02
.options method=gear maxord=1 reltol=1e-4 abstol=1e-12 gmin=1e-9
* NGSPICE file created from sky130_latch_precharge_tail_active_load_flat.ext - technology: sky130A

.subckt sky130_latch_precharge_tail_active_load_flat out_p out_n sense_p sense_n tail
+ reset vdd vss eval
M0 out_p out_n tail VSUBS FEEDBACK_NMOS ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
M1 out_n sense_n tail VSUBS INPUT_NMOS ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
M2 out_n out_p vdd_active vdd_active LOAD_PMOS ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
M3 out_n out_p tail VSUBS FEEDBACK_NMOS ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
M4 out_n reset vdd w_12400_300# LOAD_PMOS ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
M5 out_p sense_p tail VSUBS INPUT_NMOS ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
M6 tail eval vss VSUBS TAIL_NMOS ad=16.8 pd=17.6 as=15.6 ps=17.2 w=6 l=0.6
M7 out_p out_n vdd_active vdd_active LOAD_PMOS ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
M8 out_p reset vdd w_12400_300# LOAD_PMOS ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
C0 tail vss 0.19272f
C1 out_p out_n 1.91368f
C2 sense_n out_p 0.00703f
C3 vdd_active out_n 5.52673f
C4 reset out_n 0.05967f
C5 out_n w_12400_300# 0.70572f
C6 eval out_n 0.02298f
C7 sense_p out_p 0.04035f
C8 tail out_n 2.28538f
C9 tail sense_n 0.1962f
C10 vdd_active out_p 4.31746f
C11 reset out_p 0.07615f
C12 vdd out_n 0.07263f
C13 out_p w_12400_300# 0.76428f
C14 eval out_p 0.04062f
C15 sense_p tail 0.18959f
C16 vss out_n 0.06009f
C17 reset w_12400_300# 4.03573f
C18 tail out_p 3.33055f
C19 vdd out_p 0.28588f
C20 tail eval 0.09415f
C21 reset vdd 0.20878f
C22 vss out_p 0.1661f
C23 vdd w_12400_300# 1.53672f
C24 sense_n out_n 0.04664f
C25 vss eval 0.04634f
C26 vdd VSUBS 0.90789f
C27 tail VSUBS 20.46342f
C28 vss VSUBS 0.75002f
C29 out_p VSUBS 7.58271f
C30 w_12400_300# VSUBS 30f
C31 vdd_active VSUBS 63.96194f
.ends


VDD vdd 0 1.8
VDD_ACTIVE vdd_active 0 1.8
VSS vss 0 0
VSUB VSUBS 0 0
VSP sense_p 0 PULSE(0.9 0.905 0.50n 20p 20p 20n 40n)
VSN sense_n 0 PULSE(0.9 0.895 0.50n 20p 20p 20n 40n)
VRESET reset 0 PULSE(0 1.8 1.00n 20p 20p 19n 20n)
VEVAL eval 0 PULSE(0 1.8 1.10n 20p 20p 8n 20n)
XU out_p out_n sense_p sense_n tail reset vdd vss eval sky130_latch_precharge_tail_active_load_flat
.ic v(out_p)=1.801 v(out_n)=1.799
.tran 20p 10n uic
.measure tran out_p_final FIND v(out_p) AT=8.00n
.measure tran out_n_final FIND v(out_n) AT=8.00n
.measure tran output_diff_final PARAM='out_p_final-out_n_final'
.measure tran out_p_eval FIND v(out_p) AT=4.00n
.measure tran out_n_eval FIND v(out_n) AT=4.00n
.measure tran output_diff_eval PARAM='out_p_eval-out_n_eval'
.control
run
.endc
.end
